US04200641
A mixture of 6.5 parts of 4,5-dichloro-N-(3-chloropropyl)-2-nitrobenzenamine, 5.6 parts of 1-(diphenylmethyl)piperazine, 5.3 parts of sodium carbonate, 0.1 parts of potassium iodide and 200 parts of 4-methyl-2-pentanone is stirred and refluxed overnight. The reaction mixture is cooled to room temperature and water is added. The organic phase is separated, dried, filtered and evaporated, yielding N-(4,5-dichloro-2-nitrophenyl)-4-(diphenylmethyl)-1-piperazinepropanamine as a residue.

reactant | 4,5-dichloro-N-(3-chloropropyl)-2-nitrobenzenamine | ClC1=CC(=C(C=C1Cl)NCCCCl)[N+](=O)[O-] | C9H9Cl3N2O2
reactant | 1-(diphenylmethyl)piperazine | C1(=CC=CC=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H20N2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | N-(4,5-dichloro-2-nitrophenyl)-4-(diphenylmethyl)-1-piperazinepropanamine | ClC1=CC(=C(C=C1Cl)NCCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1)[N+](=O)[O-] | C26H28Cl2N4O2
